US09382188B2
E) 3-cyclopropyl-3-(3-(((3-(2,2-dimethylpropyl)-2′-methoxy-2,4′-bipyridin-5-yl)oxy)methyl)phenyl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(3-(((2′-methoxy-3-neopentyl-[2,4′-bipyridine]-5-yl)oxy)methyl)phenyl)propanoate (27 mg) in THF (1.0 mL) and methanol (1.0 mL) was added 1N aqueous sodium hydroxide solution (1.0 mL), and the mixture was stirred at room temperature for 16 hr. To the reaction mixture was added 1N hydrochloric acid (1.0 mL), and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (21 mg) as white crystals.

reactant | ethyl 3-cyclopropyl-3-(3-(((2′-methoxy-3-neopentyl-[2,4′-bipyridine]-5-yl)oxy)methyl)phenyl)propanoate | 27 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC=1C=C(C(=NC1)C1=CC(=NC=C1)OC)CC(C)(C)C | C31H38N2O4
reactant | sodium hydroxide | 1N, 1.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.0 mL | Cl | ClH
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | methanol | 1.0 mL | CO | CH4O
product | 3-cyclopropyl-3-(3-(((3-(2,2-dimethylpropyl)-2′-methoxy-2,4′-bipyridin-5-yl)oxy)methyl)phenyl)propanoic acid | 21 mg | C1(CC1)C(CC(=O)O)C1=CC(=CC=C1)COC=1C=C(C(=NC1)C1=CC(=NC=C1)OC)CC(C)(C)C | C29H34N2O4
